US04643760
4.56 g of 2-cyclopropylmethoxypyridin-3-ylsulfonamide and 3.13 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene are suspended in 50 ml of dioxan and to this suspension are added 5.46 g of N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate. The mixture is stirred for 20 minutes and concentrated by evaporation. The residue is triturated with 10 ml of 2N hydrochloric acid and the precipitated solid is isolated and washed with water and ether, affording 6.90 g of N-(2-cyclopropylmethoxypyridin-3-ylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea with a melting point of 165°-167° C.

reactant | 2-cyclopropylmethoxypyridin-3-ylsulfonamide | 4.56 g | C1(CC1)COC1=NC=CC=C1S(=O)(=O)N | C9H12N2O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.13 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate | 5.46 g | COC1=NC(=NC(=N1)C)N(C([O-])=O)C1=CC=CC=C1
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | N-(2-cyclopropylmethoxypyridin-3-ylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 6.90 g | C1(CC1)COC1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C15H18N6O5S
